US04515791
p-(2,3-Dihydro-7-methyl-3-oxo-1,2,4-triazolo[4,3-b]pyridazin-6-yl)-benzonitrile
A 12.6 g. portion of ethyl carbazate is dissolved in 300 ml. of butanol. A 13.77 g. portion of 3-chloro-5-methyl-6-(p-cyanophenyl)pyridazine is added and the mixture is stirred at reflux for 18 hours. The mixture is cooled in ice and the solid is recovered by filtration and air dried, giving 6.3 g. of the desired product as a cream colored solid, m.p.>300° C.

reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | 3-chloro-5-methyl-6-(p-cyanophenyl)pyridazine | ClC=1N=NC(=C(C1)C)C1=CC=C(C=C1)C#N | C12H8ClN3
solvent | butanol | C(CCC)O | C4H10O
product | p-(2,3-Dihydro-7-methyl-3-oxo-1,2,4-triazolo[4,3-b]pyridazin-6-yl)-benzonitrile | CC1=CC=2N(N=C1C1=CC=C(C#N)C=C1)C(NN2)=O | C13H9N5O
